US05317016
To a solution of (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-acetylthiopyrrolidine (4.92 g: 10.18 mmole) in a mixture of dichloromethane (15 ml) and methanol (75 ml), hydrazine hydrate (1.53 ml: 3 eq.) is added. The mixture is warmed to removed dichloromethane and heated to reflux for 1 hour and 10 minutes. The reaction mixture is concentrated in vacuo. The residue is diluted with dichloromethane and filtered. The filtrate is washed with water, dried over magnesium sulfate, and concentrated in vacuo to give crude (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-aminomethyl-4-mercaptopyrrolidine (3.3 g). Yield: Quantitative. NMR δ(CDCl3) ppm: 1.63 to 1.90(m, 1H), 2.48 to 2.68(m, 1H), 2.86 to 3.43(m, 4H), 3.65 to 4.23(m, 2H), 5.22(s, 2H), 7.52(d, J=9 Hz, 2H), 8.23 (d, J=9 Hz, 2H).

reactant | (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-acetylthiopyrrolidine | 10.18 mmole, 4.92 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C23H21N3O7S
reactant | hydrazine hydrate | 1.53 ml, 3 eq. | O.NN
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | methanol | 75 ml | CO | CH4O
product | (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-aminomethyl-4-mercaptopyrrolidine | 3.3 g, Yield: Quantitative | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)CN)C=C1 | C13H17N3O4S
